US05059692
Methyl 1-amino-4,5-dihydro-5-oxo-4-phenyl-dithieno[2,3-b:3',2'-d]pyridine-2-carboxylate (compound 3)
To a solution of 1.81 g of methyl 3-cyanomethylthiophene-2-carboxylate and 1.62 g of phenyl isothiocyanate in 30 ml of tetrahydrofuran was added 480 mg of a 60% sodium hydride with stirring at 0° C. in a stream of nitrogen, and the mixture was stirred for 1 hour at room temperature. To the reaction mixture was added 1.14 ml of methyl bromoacetate at room temperature, and the mixture was stirred for 3 hours. To the reaction mixture was added 480 mg of a 60% sodium hydride, and the mixture was stirred overnight at room temperature. To the reaction mixture was added 100 ml of water, and precipitates were collected by a filtration. The precipitates were successively washed with water, benzene and n-hexane, and dried over to obtain 3.06 g of the desired product as white crystals.

reactant | methyl 3-cyanomethylthiophene-2-carboxylate | 1.81 g | C(#N)CC1=C(SC=C1)C(=O)OC | C8H7NO2S
reactant | phenyl isothiocyanate | 1.62 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | sodium hydride | [H-].[Na+]
reactant | methyl bromoacetate | 1.14 ml | BrCC(=O)OC | C3H5BrO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | Methyl 1-amino-4,5-dihydro-5-oxo-4-phenyl-dithieno[2,3-b:3',2'-d]pyridine-2-carboxylate | 3.06 g | NC1=C(SC=2N(C(C3=C(C21)C=CS3)=O)C3=CC=CC=C3)C(=O)OC | C17H12N2O3S2
